US07935815B2
Synthesis of (4-fluorophenyl)-{5-{(E)-2-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]vinyl}-4H-[1,2,4]triazol-3-yl}amine
Acetic acid (10 mL) and ammonium acetate (6.8 g) were added to (4-fluorophenyl)-{5-{(E)-2-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]vinyl}-[1,3,4]oxadiazol-2-yl}amine (692 mg), and the reaction solution was stirred at 150° C. for 12 hours. The reaction solution was left to cool to room temperature and then concentrated under reduced pressure. A saturated sodium bicarbonate solution was added to the resulting residue, followed by extraction with chloroform. The insoluble matter generated during separation was added to the resulting extract, and THF and ethanol were further added to provide a mixed solution. The mixed solution was concentrated under reduced pressure and solidified with ethyl acetate and diethyl ether to obtain 372 mg of the title compound. The property values of the compound are as follows.

reactant | ammonium acetate | 6.8 g | C(C)(=O)[O-].[NH4+]
reactant | (4-fluorophenyl)-{5-{(E)-2-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]vinyl}-[1,3,4]oxadiazol-2-yl}amine | 692 mg | FC1=CC=C(C=C1)NC=1OC(=NN1)\C=C\C1=CC(=C(C=C1)N1C=NC(=C1)C)OC | C21H18FN5O2
solvent | Acetic acid | 10 mL | C(C)(=O)O | C2H4O2
product | (4-fluorophenyl)-{5-{(E)-2-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]vinyl}-4H-[1,2,4]triazol-3-yl}amine | 372 mg | FC1=CC=C(C=C1)NC1=NN=C(N1)\C=C\C1=CC(=C(C=C1)N1C=NC(=C1)C)OC | C21H19FN6O
